US08071587B2
(a). 4-Isopropoxy-3-methoxy-benzaldehyde
A mixture of 4-hydroxy-3-methoxybenzaldehyde (100 g), anhydrous potassium carbonate (182 g) and 2-bromopropane (81 ml) in DMF (500 ml) was stirred at 65° C. for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 4-hydroxy-3-methoxybenzaldehyde | 100 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | potassium carbonate | 182 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 81 ml | BrC(C)C | C3H7Br
reactant | water | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 4-Isopropoxy-3-methoxy-benzaldehyde | C(C)(C)OC1=C(C=C(C=O)C=C1)OC | C11H14O3
